US09328067B2
({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfanyl)acetic acid
To a solution of N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis(1-benzofuran-2-sulfonamide) (300 mg, 0.44 mmol) in CH2Cl2 (5 ml) and dioxane (5 ml) was added saturated aqueous NaHCO3 (5 ml), polymer-bound triphenylphosphine (−3 mmol/g triphenylphosphine loading, 0.44 g, 1.32 mmol), and 2-bromoacetic acid (65 μl, 0.88 mmol). The reaction was stirred at room temperature for 4 hours and was filtered, extracted with EtOAc (×2). The aqueous layer was acidified with HCl, extracted with EtOAc (×2). The combined organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (50-100% EtOAc in hexane) to yield the title compound (144 mg, 41%).

reactant | N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis(1-benzofuran-2-sulfonamide) | 0.44 mmol, 300 mg | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SSC2=C(C=C(C=C2)Cl)NS(=O)(=O)C=2OC1=C(C2)C=CC=C1 | C28H18Cl2N2O6S4
reactant | NaHCO3 | 5 ml | C(=O)(O)[O-].[Na+]
reactant | triphenylphosphine | 1.32 mmol, 0.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-bromoacetic acid | 0.88 mmol, 65 μl | BrCC(=O)O | C2H3BrO2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | ({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfanyl)acetic acid | 144 mg, 41% | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)Cl)SCC(=O)O | C16H12ClNO5S2
